US07683060B2
Step 3. Methyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate
A mixture of 1-(6-chloropyridin-3-yl)cyclopropanecarboxylic acid (2.0 g, 0.010 mol) and sulfuric acid (0.42 mL, 0.0079 mol) in methanol (30 mL) was stirred at 80° C. for 6 h. The mixture was cooled to RT and concentrated. The residue was dissolved in saturated sodium bicarbonate and extracted with ethyl acetate. The organic layers were washed with brine, dried with Na2SO4, filtered, and concentrated under reduced pressure to give a crude product (2.0 g, 93%). Analytical LCMS: (M+H)+=212.0.

reactant | 1-(6-chloropyridin-3-yl)cyclopropanecarboxylic acid | 0.010 mol, 2.0 g | ClC1=CC=C(C=N1)C1(CC1)C(=O)O | C9H8ClNO2
reactant | sulfuric acid | 0.0079 mol, 0.42 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 30 mL | CO | CH4O
product | Methyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | 2.0 g, 93% | ClC1=CC=C(C=N1)C1(CC1)C(=O)OC | C10H10ClNO2
